US03935312
23.4 G (0.1 mole) of 2,3,6-trichloroquinoxaline and 1 g of copper-I chloride (approximately 0.1 mole) were dissolved in 250 ml of anhydrous acetonitrile and 45 ml (approximately 2 moles) of liquid ammonia were added thereto. The reaction mixture was heated for 12 hours to 150°C in a steel autoclave of 0.7 liter capacity. In the course thereof, a pressure of 10 to 15 atmospheres gauge was set up. The crystalline precipitate produced after cooling was filtered off and dissolved in dilute sodium hydroxide solution. The solution was filtered, the filtrate was acidified with hydrochloric acid and the precipitate was filtered off, well rinsed with water and recrystallized from 30% strength acetic acid. 10 g (representing 46% of theory) of 6-chloro-2-methyl-1H-imidazo[4,5-b]quinoxaline of melting point >300°C were obtained.

reactant | 2,3,6-trichloroquinoxaline | 0.1 mole | ClC1=NC2=CC=C(C=C2N=C1Cl)Cl | C8H3Cl3N2
reactant | ammonia | N | H3N
reactant | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 6-chloro-2-methyl-1H-imidazo[4,5-b]quinoxaline | 10 g, 46% | ClC=1C=C2N=C3C(=NC2=CC1)NC(=N3)C | C10H7ClN4
